* C:\Users\juane\Desktop\Projects\STPedal\STPedal\LTSpice\Differential_OpAmp_Buffer.asc
XU1 N008 N001 5V 0 N001 TL072 TL072
V1 5V 0 5
C1 5V 0 0.1µ
V2 N006 0 SINE(0 0.5 440 0 0)
C2 N008 N007 0.1µ
R1 Vref N008 1Meg
R2 5V Vref 1k
R3 Vref 0 1k
C3 Vref 0 47µ
R4 N007 N006 100
C4 N007 0 10n
R5 N007 0 1Meg
R6 N013 N001 1k
R§1k N014 N013 1k
XU2 Vref N013 5V 0 N014 TL072 TL072
C5 5V 0 0.1µ
R7 IN_+ N001 100
C6 IN_+ 0 1n
R8 IN_- N014 100
C7 IN_- 0 1n
C8 IN_+ IN_- 10n
XU3 N012 N002 5V 0 N003 TL072 TL072
C9 5V 0 0.1µ
R9 N012 N005 10k
R11 N002 N009 10k
R12 N003 N002 5.1k
R10 N012 Vref 5.1k
C10 N011 N010 10µ
R13 N011 0 1Meg
C11 N004 0 10n
C12 N015 0 10n
R14 N004 IN_+ 100
R15 N015 IN_- 100
C13 N009 N015 2.2µ
C14 N005 N004 2.2µ
R16 Vref N005 1Meg
R17 N009 Vref 1Meg
C15 Vref 0 0.1µ
R18 N010 N003 100
C16 N010 0 10n
.lib OPA1656.LIB
.tran 0 200m 1m 1m
* INPUT (Single Ended to Differential)
* OUTPUT (Differential to Single Ended)
.lib TL072.301
.backanno
.end
